US09056885B2
11-methoxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline
To a solution of 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine (0.25 g) in bromochloropropane (2 mL), Na2CO3 (0.6 g) was added, and the reaction heated to reflux. After stirring for 18 hours, the heat was removed, the reaction partitioned between water (30 mL) and ether (25 mL), the layers separated, and the organic layer washed with brine, dried (Na2SO4) and concentrated. The crude product was purified by silica gel chromatography (gradient of EtOAc in heptane) to provide the title compound (0.27 g) as a clear oil: 1H NMR (DMSO-d6) δ 6.82 (d, 1H); 6.36 (d, 1H), 3.68 (s, 3H), 3.04-3.00 (m, 2H), 2.89-2.85 (m, 2H), 2.60-2.57 (m, 2H), 2.53-2.49 (m, 2H), 1.70-1.61 (m, 4H), 1.48-1.40 (m, 2H); MS expected 218 (C14H20NO, M+1), found 218.

reactant | 8-methoxy-2,3,4,5-tetrahydro-1H-benzo[b]azepine | 0.25 g | COC=1C=CC2=C(NCCCC2)C1 | C11H15NO
reactant | Na2CO3 | 0.6 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | bromochloropropane | 2 mL | BrC(CC)Cl | C3H6BrCl
product | 11-methoxy-2,3,5,6,7,8-hexahydro-1H-azepino[3,2,1-ij]quinoline | 0.27 g | COC1=C2CCCN3C2=C(C=C1)CCCC3 | C14H19NO
